US08895745B2
1-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea
Prepared as described for 1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (I6), substituting methylamine in THF (2M) for 2,2,2-trifluoroethyl amine in Step 1. 1H NMR (400 MHz, CDCl3): 7.59-7.53 (2H, m), 7.50 (1H, d), 7.34 (1H, t), 2.83 (3H, s), 1.33 (12H, s).

reactant | 1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)NCC(F)(F)F)C | C15H20BF3N2O3
reactant | 2,2,2-trifluoroethyl amine | FC(CN)(F)F | C2H4F3N
solvent | THF | 2M | C1CCOC1 | C4H8O
product | 1-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | CNC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
